US06894169B1
N-(3-hydroxypropyl)-4-picolinium bromide (Ib)
Anhydrous ethanol (250 mL) was added to a two-neck, 1 L round-bottomed flask, flushed with nitrogen, followed by addition of 3-bromo-1-propanol (60.0 g, 0.4317 mol) and 4-picoline (43.8 g, 0.4701 mol). The mixture was heated with stirring at 60° C. for 24 hours under nitrogen. The reaction was stopped and the contents in flask were transferred to a one-neck round-bottomed flask. The solvent was removed under vacuum leaving the product as a viscous, dark yellow-orange liquid. The product was washed within the same flask with diethyl ether (4×100 mL) and any remaining solvent was removed under vacuum. The yield of N-(3-hydroxypropyl)-4-picolinium bromide was 96.6 g (96% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.98 (2H, d, J=6.8 Hz), 8.00 (2H, d, J=6.8 Hz), 4.64 (2H, t, J=7.0 Hz, 7.0 Hz), 3.44 (2H, t, J=6.0 Hz, 6.0 Hz), 2.62 (3H, s), 2.06 (2H, p, J=6.8 Hz, 6.0 Hz, 6.0 Hz, 6.8 Hz). IR (neat): 3332 cm−1 (O—H), 1642 cm−1 (>C═N—C), 1518 cm−1 (C—C aromatic).

reactant | 3-bromo-1-propanol | 0.4317 mol, 60.0 g | BrCCCO | C3H7BrO
reactant | 4-picoline | 0.4701 mol, 43.8 g | N1=CC=C(C=C1)C | C6H7N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | N-(3-hydroxypropyl)-4-picolinium bromide | 96% yield | [Br-].OCCC[N+]1=CC=C(C=C1)C | InChI=1S/C9H14NO.BrH/c1-9-3-6-10(7-4-9)5-2-8-11;/h3-4,6-7,11H,2,5,8H2,1H3;1H/q+1;/p-1
